US07504513B2
A solution of 2,4-dibromo-thiazole-5-carboxylic acid (1.7 g, 5.92 mmol) in methanol (20 ml) was treated with N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (920 mg, 5.92 mmol). The mixture was stirred at ambient temperature overnight. The solvent was evaporated and water (30 ml) was added. The mixture was then extracted with 3×30 ml of EtOAc. The combined organics were washed with brine, dried with MgSO4 and concentrated in vacuo. The crude was purified by flash chromatography (0 to 5% EtOAc/Hexanes) to afford 2,4-Dibromo-thiazole-5-carboxylic acid methyl ester (1.4 g, 78%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 3.91 (s, 3H).

reactant | 2,4-dibromo-thiazole-5-carboxylic acid | 5.92 mmol, 1.7 g | BrC=1SC(=C(N1)Br)C(=O)O | C4HBr2NO2S
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 5.92 mmol, 920 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | methanol | 20 ml | CO | CH4O
product | 2,4-Dibromo-thiazole-5-carboxylic acid methyl ester | 1.4 g, 78% | COC(=O)C1=C(N=C(S1)Br)Br | C5H3Br2NO2S
